data/oMe_Silver.jsonl
{"reaction_id": "NR-073_1-C(F)(F)F_2-CC","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(C(F)(F)F)(CC)"],"products_smiles": ["C(C(F)(F)F)#C(CC)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(C(F)(F)F)(CC)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(C(F)(F)F)(CC)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(F)(F)F)#C(CC)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of C(F)(F)F or CC to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
